US04225476
D(1)Preparation of Ethylene/Ethyl Acrylate/Allyl Acrylate/Maleic Anhydride Tetrapolymer
A 7.57-liter stirred autoclave was charged under nitrogen with 4000 ml. of methylene chloride, 400 grams of ethyl acrylate, 20 grams of maleic anhydride, 1.2 grams of allyl acrylate, and 1.0 gram of azobis(isobutyronitrile). It was then sealed, charged with 300 grams of boron trifluoride, and pressured to 21 kg./sq. cm. with ethylene. The subsequent copolymerization at 25° C. was continued until pressure measurement indicated that ethylene uptake had ceased (about two hours later). The reaction was quenched by addition of one liter of diethyl ether. Volatiles were removed by steam-stripping in a well-ventilated hood. The terpolymer thereby obtained was dissolved in acetone, precipitated in water in a blender, and oven-dried. Yield: 415 grams.

reactant | ethyl acrylate | 400 grams | C(C=C)(=O)OCC | C5H8O2
reactant | maleic anhydride | 20 grams | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | allyl acrylate | 1.2 grams | C(C=C)(=O)OCC=C | C6H8O2
reactant | azobis(isobutyronitrile) | 1.0 gram | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | boron trifluoride | 300 grams | B(F)(F)F | BF3
reactant | ethylene | C=C | C2H4
solvent | acetone | CC(=O)C | C3H6O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | Ethylene/Ethyl Acrylate Allyl Acrylate Maleic Anhydride | C=C.C(C=C)(=O)OCC.C(C=C)(=O)OCC=C.C1(\C=C/C(=O)O1)=O | InChI=1S/C6H8O2.C5H8O2.C4H2O3.C2H4/c1-3-5-8-6(7)4-2;1-3-5(6)7-4-2;5-3-1-2-4(6)7-3;1-2/h3-4H,1-2,5H2;3H,1,4H2,2H3;1-2H;1-2H2
